US08106077B2
A solution of 2-azido-1,3-dichloro-benzene (4.00 g, 1 equiv) and 3-trimethylsilanyl-prop-2-yn-1-ol (6.29 mL, 2 equiv) in toluene (10 mL) is heated to 120° C. for 23 h. The reaction mixture is allowed to cool to room temperature and is diluted with 100 mL methylene chloride. The solution is adsorbed onto diatomaceous earth and is purified via flash chromatography eluting with hexanes/ethyl acetate (85:15 to 20:80) to give [3-(2,6-Dichloro-phenyl)-3H-[1,2,3]triazol-4-yl]-methanol (2.30 g, 44%) as an off-white solid.

reactant | 2-azido-1,3-dichloro-benzene | 4.00 g, 1 equiv | N(=[N+]=[N-])C1=C(C=CC=C1Cl)Cl | C6H3Cl2N3
reactant | 3-trimethylsilanyl-prop-2-yn-1-ol | 6.29 mL, 2 equiv | C[Si](C#CCO)(C)C | C6H12OSi
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
solvent | methylene chloride | 100 mL | C(Cl)Cl | CH2Cl2
product | [3-(2,6-Dichloro-phenyl)-3H-[1,2,3]triazol-4-yl]-methanol | 2.30 g, 44% | ClC1=C(C(=CC=C1)Cl)N1N=NC=C1CO | C9H7Cl2N3O
